US07307094B2
2-(4-Methoxyphenyl)benzoxazole-4-carboxylic acid was prepared via the lithium hydroxide mediated hydrolysis of methyl 2-(4-methoxyphenyl)benzoxazole-4-carboxylate as described in Step B of Example 14. This material was obtained in 92% yield as a white solid: δ 11.90 (br s, 1H), 8.25 (m, 2H), 8.13 (dd, J=7.8, 0.9 Hz, 1H), 7.79 (dd, J=7.8, 0.9 Hz, 1H), 7.48 (t, J=7.9 Hz, 1H), 7.08 (m, 2H), 3.93 (s, 3H); MS (ESI) m/z 270 [M+H]+

reactant | lithium hydroxide | [OH-].[Li+]
reactant | methyl 2-(4-methoxyphenyl)benzoxazole-4-carboxylate | COC1=CC=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C16H13NO4
product | 2-(4-Methoxyphenyl)benzoxazole-4-carboxylic acid | 92% yield | COC1=CC=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C15H11NO4
